US07442698B2
1-(2-Tert-butoxycarbonylaminoethyl)-4-(4-nitrophenyl)piperazine
1-(2-Azidoethyl)-4-(4-nitrophenyl)piperazine (0.8 g, 0.0029 mol) was dissolved in anhydrous ethyl ether (35 mL) under nitrogen, and tributyl phosphine (0.76 mL, 0.0032 mol) was added dropwise. The mixture was stirred at room temperature for 1 h then cooled to −50° C. before adding di-tert-butyldicarbonate (0.63 g, 0.0032 mol dissolved in little ether) and stirring for a further hour. Saturated sodium hydrogen carbonate (2 mL) was added and the flask was allowed to warm to room temperature. Further 20 mL of saturated sodium hydrogen carbonate and 20 mL ethyl acetate were added, the organic phase separated and the aqueous layer extracted with ethyl acetate. The organic layers were combined, dried and evaporated. The crude material was purified on silica (2% MeOH:DCM) to give the title compound. LCMS: 91%, t=1.25 min, [M-56]+=295.32 4-(4-Aminophenyl)-1-(2-tert-butoxycarbonylaminoethyl)piperazine 1-(2-Tert-butoxycarbonylaminoethyl)-4-(4-nitrophenyl)piperazine (0.8 g, 0.0023 mol) was dissolved in ethanol (40 mL) and stirred with Pd/C (10%, 100 mg) under a hydrogen atmosphere overnight. The catalyst was filtered off and solvent evaporated to yield the title compound. LCMS: 90%, t=0.82 min. 1H NMR (CDCl3) 6.85 (2H, d); 6.65 (2H, d); 5.0 (1H, s); 3.3 (2H, t); 3.05 (4H, m); 2.6 (4H, m); 2.5 (2H, t); 1.5 (9H, s).

reactant | 1-(2-Azidoethyl)-4-(4-nitrophenyl)piperazine | 0.0029 mol, 0.8 g | N(=[N+]=[N-])CCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16N6O2
reactant | tributyl phosphine | 0.0032 mol, 0.76 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | di-tert-butyldicarbonate | 0.0032 mol, 0.63 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogen carbonate | 2 mL | C(O)([O-])=O.[Na+]
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | ethyl ether | 35 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-Tert-butoxycarbonylaminoethyl)-4-(4-nitrophenyl)piperazine | C(C)(C)(C)OC(=O)NCCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H26N4O4
